US05817877
This example is representative of procedure "B". Into a screw-capped test tube were weighed 29 mg (0.052 mmol) Pd(dba)2, 55 mg (0.10 mmol) DPPF, and 144 mg (1.5 mmol) NaO-t-Bu. The solid materials were suspended in 12 ml of toluene. 4-Methylphenyltriflate (240 mg, 1.0 mmol) was dissolved in 1 ml of toluene and added to the test tube. The test tube was sealed with a cap containing a PTFE septum and removed from the dry box. Piperidine (148 μl, 1.5 mmol) was added to the test tube by syringe. The reaction mixture was heated at 100° C. for 5 hours. TLC of the reaction mixture indicated complete consumption of the starting triflate. The reaction mixture was cooled to room temperature, and the mixture was absorbed onto silica gel. Chromatography on a silica gel column using 50:1 hexanes:diethyl ether afforded 1-(4-methylphenyl)piperidine as a clear oil. (135 mg, 77% yield).

reactant | NaO-t-Bu | 1.5 mmol, 144 mg | O([Na])C(C)(C)C
reactant | Piperidine | 1.5 mmol, 148 μl | N1CCCCC1 | C5H11N
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 0.052 mmol, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | DPPF | 0.10 mmol, 55 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-(4-methylphenyl)piperidine | 77% yield | CC1=CC=C(C=C1)N1CCCCC1 | C12H17N
